US04096267
A stirred solution of (1-oxo-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid (0.351 gm., 0.001 mole) in dimethylformamide (7 ml.) is cooled in an ice bath then treated with sodium hydride (0.084 g. of a 57% oil dispersion, .002 moles) and stirred for two hours. Methyl iodide (1 ml.) is added and the reaction mixture is stirred at 25° C. for 2 hours, poured into ice water, and acidified with dilute aqueous hydrochloric acid affording (1-oxo-2-phenyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid which melts at 168°-169° C.

reactant | (1-oxo-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid | 0.001 mole, 0.351 gm | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)C1=CC=CC=C1 | C17H12Cl2O4
reactant | sodium hydride | [H-].[Na+]
reactant | Methyl iodide | 1 ml | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | (1-oxo-2-phenyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1=CC=CC=C1 | C18H14Cl2O4
